US07799805B2
N-(4-Chloro-3-formyl-benzyl)-3,3,3-trifluoro-propionamide
MnO2 (1.44 g, 14.9 mmol) was added to a sol. of N-(4-chloro-3-hydroxymethyl-benzyl)-3,3,3-trifluoro-propionamide (841 mg, 2.99 mmol) in CH3CN (60 mL). The mixture was stirred at rt for 3 h. MnO2 (1.44 g, 14.9 mmol) was added again, and the mixture was stirred for 90 min. The mixture was filtered over Celite, and the precipitate was washed with CH3CN and CH2Cl2. The solvents were removed under reduced pressure, and the residue was dried under high vacuum, yielding the crude title compound (840 mg, quantitative yield) that was used without purification. LC-MS: tR=0.84 min; ES+: 341.21.

reactant | N-(4-chloro-3-hydroxymethyl-benzyl)-3,3,3-trifluoro-propionamide | 2.99 mmol, 841 mg | ClC1=C(C=C(CNC(CC(F)(F)F)=O)C=C1)CO | C11H11ClF3NO2
solvent | CH3CN | 60 mL | CC#N | C2H3N
catalyst | MnO2 | 14.9 mmol, 1.44 g | O=[Mn]=O
catalyst | MnO2 | 14.9 mmol, 1.44 g | O=[Mn]=O
product | N-(4-Chloro-3-formyl-benzyl)-3,3,3-trifluoro-propionamide | 840 mg, quantitative yield | ClC1=C(C=C(CNC(CC(F)(F)F)=O)C=C1)C=O | C11H9ClF3NO2
